US08084470B2
Synthesis of 1-(2-chloroethylsulfonyl)-4-ethylbenzene (precursor V12)
A solution of 1.0 ml (14.0 mmol) of thionyl chloride in toluene (15 ml) was added dropwise, while cooling with ice, to a solution of 1.0 g (4.67 mmol) of 2-(4-ethylphenylsulfonyl)-ethanol and 56 μl (0.70 mmol) of pyridine in toluene (20 ml). The mixture was then heated for 3 h under reflux. Quenching with ice and water was then carried out. The phases were separated and the aqueous phase was extracted twice with DCM. The combined organic phases were dried over MgSO4, filtered and concentrated in vacuo. There were obtained as crude product 1.19 g of slightly impure 1-(2-chloroethylsulfonyl)-4-ethylbenzene, which was reacted further without additional purification.

reactant | thionyl chloride | 14.0 mmol, 1.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(4-ethylphenylsulfonyl)-ethanol | 4.67 mmol, 1.0 g | C(C)C1=CC=C(C=C1)S(=O)(=O)CCO | C10H14O3S
reactant | pyridine | 0.70 mmol, 56 μl | N1=CC=CC=C1 | C5H5N
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-chloroethylsulfonyl)-4-ethylbenzene | 1.19 g | ClCCS(=O)(=O)C1=CC=C(C=C1)CC | C10H13ClO2S
